US08071586B2
vii) (S)-6-Aza-spiro[2.5]octan-4-ol
100 mg (S)-6-benzyl-6-aza-spiro[2.5]octan-4-ol were dissolved in 1 ml methanol and hydrogenated over palladium on barium sulfate. After de-benzylation (IPC by GC), the catalyst was filtered and the filtrate was concentrated under reduced pressure to provide the title compound. The amino alcohol was treated with di-tert-butyl-dicarbonate in methanol in the presence of triethylamine. The crude tert-butoxycarbonyl-protected amine product was analyzed by chiral GC (BGB-176; 30 m×0.25 mm; 80° C. to 210° C. in 43 min) and proved to be identical with intermediate 2b.

reactant | (S)-6-benzyl-6-aza-spiro[2.5]octan-4-ol | 100 mg | C(C1=CC=CC=C1)N1C[C@H](C2(CC2)CC1)O | C14H19NO
solvent | methanol | 1 ml | CO | CH4O
catalyst | palladium on barium sulfate | [Pd] | Pd
product | (S)-6-Aza-spiro[2.5]octan-4-ol | C1CC12[C@@H](CNCC2)O | C7H13NO
